* File: nor2.pex.sp.pex
* Created: Thu May  8 13:35:10 2025
* Program "Calibre xRC"
* Version "v2024.4_12.9"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_NOR2%VSS 2 10 11 14 19 21 26
c24 26 0 0.0140813f
c25 19 0 0.0146343f
c26 11 0 0.00323105f
c27 10 0 0.0059298f
c28 2 0 0.00242995f
r29 24 32 0.0188364
r30 24 26 1.12987
r31 22 30 0.0271748
r32 21 32 0.0271748
r33 17 30 0.0188364
r34 17 19 1.13862
r35 14 21 0.514543
r36 14 22 0.656583
r37 11 26 10
r38 10 19 10
r39 2 32 30
.ends

.subckt PM_NOR2%OUT 1 4 9 11 12 15 21
c33 15 0 8.12711e-20
c34 9 0 2.33466e-19
c35 4 0 0.00227505f
r36 21 25 0.158145
r37 17 19 0.388606
r38 15 25 1.7
r39 15 17 1.22411
r40 13 15 0.379862
r41 11 13 0.0489649
r42 11 12 0.67326
r43 7 12 0.0489649
r44 7 9 0.999689
r45 4 9 10
r46 1 19 15
r47 1 17 10
.ends

.subckt PM_NOR2%VDD 2 9 12 17
c17 17 0 0.0248015f
r18 21 26 0.0291575
r19 21 23 0.302141
r20 17 20 0.388606
r21 15 26 0.016797
r22 15 20 1.28337
r23 12 23 0.515874
r24 9 20 15
r25 9 17 10
r26 2 23 30
.ends

.subckt PM_NOR2%INA 1 2 6 14 15 18 23
c24 23 0 1.83691e-19
c25 18 0 1.08938e-19
c26 15 0 1.94875e-19
c27 14 0 4.03138e-19
c28 1 0 1.06745e-19
r29 23 27 0.158145
r30 18 27 1.7
r31 18 21 0.00485757
r32 14 21 25
r33 14 16 7.68531
r34 14 15 7.75092
r35 6 16 81.137
r36 4 15 107.499
r37 2 6 46.5732
r38 1 4 27.3386
.ends

.subckt PM_NOR2%INB 1 2 6 14 15 18 23
c34 23 0 1.78159e-19
c35 14 0 2.81765e-19
c36 1 0 1.26721e-19
r37 23 27 0.158145
r38 18 27 1.7
r39 18 21 0.00485757
r40 14 21 25
r41 14 16 7.68531
r42 14 15 7.75092
r43 6 16 81.137
r44 4 15 107.499
r45 2 6 46.5732
r46 1 4 27.3386
.ends

